US03936470
A mixture of 11.5 parts of 2-bromo-p-chloroacetophenone, 10.4 parts of o-chloro-α-(hydroxymethyl)benzylalcohol, 0.2 parts of p-toluenesulfonic acid, 180 parts of benzene and 80 parts of butanol is stirred and refluxed overnight with water-separator. The solvent is removed in vacuo and the residue is dissolved in chloroform. The chloroform solution is stirred with silica gel for 30 minutes. The silica gel is filtered off and the solvent is removed in vacuo, yielding 2-(bromomethyl)-4-(o-chlorophenyl)-2-(p-chlorophenyl)-1,3-dioxolane as a residue.

reactant | 2-bromo-p-chloroacetophenone | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | o-chloro-α-(hydroxymethyl)benzylalcohol | ClC1=C(C(CO)O)C=CC=C1 | C8H9ClO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | butanol | C(CCC)O | C4H10O
product | 2-(bromomethyl)-4-(o-chlorophenyl)-2-(p-chlorophenyl)-1,3-dioxolane | BrCC1(OCC(O1)C1=C(C=CC=C1)Cl)C1=CC=C(C=C1)Cl | C16H13BrCl2O2
